US06653313B2
E. Dimethyl 4-(2,6-dichlorophenyl)-2-(2-methoxy-2-oxoethyl)-6-(2-{2-[(methylsulfonyl)amino]phenyl}ethyl)-1,4-dihydro-3,5-pyridinedicarboxylate
To a stirred solution of dimethyl 2-[2-(2-aminophenyl)ethyl]-4-(2,6-dichlorophenyl)-6-(2-methoxy-2-oxoethyl)-1,4-dihydro-3,5-pyridinedicarboxylate (500 mg/0.94 mmol) and methanesulfonyl chloride (107 mg/0.94 mmol) in anhydrous CH2Cl2(15 ml) was added triethylamine (94.7 mg/0.94 mmol) at 0° C. under nitrogen atmosphere. The resulting solution was stirred at room temperature for 1 day. The reaction was quenched with water and the separated organic layer was washed with water and brine, dried over MgSO4, filtered and concentrated to afford a crude mixture. This crude was purified by column chromatography on silica gel (Hexane:EtOAc=3:2) to afford a yellow solid (262 mg/46%).

reactant | dimethyl 2-[2-(2-aminophenyl)ethyl]-4-(2,6-dichlorophenyl)-6-(2-methoxy-2-oxoethyl)-1,4-dihydro-3,5-pyridinedicarboxylate | 0.94 mmol, 500 mg | NC1=C(C=CC=C1)CCC=1NC(=C(C(C1C(=O)OC)C1=C(C=CC=C1Cl)Cl)C(=O)OC)CC(=O)OC | C26H26Cl2N2O6
reactant | methanesulfonyl chloride | 0.94 mmol, 107 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.94 mmol, 94.7 mg | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | Dimethyl 4-(2,6-dichlorophenyl)-2-(2-methoxy-2-oxoethyl)-6-(2-{2-[(methylsulfonyl)amino]phenyl}ethyl)-1,4-dihydro-3,5-pyridinedicarboxylate | ClC1=C(C(=CC=C1)Cl)C1C(=C(NC(=C1C(=O)OC)CCC1=C(C=CC=C1)NS(=O)(=O)C)CC(=O)OC)C(=O)OC | C27H28Cl2N2O8S
